US07259175B2
{2-Methyl-4-[4-methyl-2-(4′-trifluoromethyl-biphenyl-4-yl)-thiazol-5-ylmethylsulfanyl]-phenoxy}-acetic acid
To a solution of {4-[2-(4-Bromo-phenyl)-4-methyl-thiazol-5-ylmethylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester (53 mg, 0.1076 mmol) in toluene:ethanol (1:1, 2.0 mL) is added palladium tetrakis triphenylphosphine (5.0 mg, 0.0053 mmol), 4-(trifluoromethyl)-phenyl boronic acid (22.5 mg, 0.1184 mmol), and a solution of sodium carbonate (0.216 mL, 1.0M in water, 0.216 mmol). The reaction is purged with nitrogen and heated to reflux. The reaction is monitored by HPLC, and upon completion is allowed to cool to room temperature. The reaction is diluted with EtOAc and then washed with 0.1N sodium hydroxide, water, and brine. The organic layer is dried over anhydrous sodium sulfate, then concentrated. The product is purified by flash column chromatography. The pure ester compound is then diluted with THF and 1N sodium hydroxide is added. The reaction is allowed to stir at room temperature, and monitored by TLC. Upon completion, 1N hydrochloric acid is added to neutralize the solution. The reaction is diluted with EtOAc and then washed with water. The organic layer is dried over anhydrous sodium sulfate and concentrated to the pure acid, 50 mg or 94% yield. MS (ES): 530.7 (M++1), the structure is also confirmed by proton NMR.

reactant | {4-[2-(4-Bromo-phenyl)-4-methyl-thiazol-5-ylmethylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | 0.1076 mmol, 53 mg | C(C)OC(COC1=C(C=C(C=C1)SCC1=C(N=C(S1)C1=CC=C(C=C1)Br)C)C)=O | C22H22BrNO3S2
reactant | 4-(trifluoromethyl)-phenyl boronic acid | 0.1184 mmol, 22.5 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 0.216 mmol, 1.0M, 0.216 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol | 2.0 mL | C1(=CC=CC=C1)C.C(C)O
product | {2-Methyl-4-[4-methyl-2-(4′-trifluoromethyl-biphenyl-4-yl)-thiazol-5-ylmethylsulfanyl]-phenoxy}-acetic acid | 94% yield | CC1=C(OCC(=O)O)C=CC(=C1)SCC1=C(N=C(S1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C | C27H22F3NO3S2
